US05849764
Step D 3-(1H-benzoimidazol-5-yl)-prop-2-en-1-ol
To a solution of 3-(1H-benzoimidazol-5-yl)-acrylic acid methyl ester (50 mg in 1 mL dry tetrahydrofuran) at -78° C. was added 1.24 nL of a 1M solution of lithium tri-sec-butylborohydride in tetrahydrofuran and the mixture stirred at -78° C. for 4 hours followed by warming to -40° C. for an additional 4 hours. The reaction was quenched by addition of aqueous methanol, concentrated in vacuo and purified by flash chromatography on silica gel (methylene chloride:methanol, 87:13) to give the title compound (44 mg).

reactant | 3-(1H-benzoimidazol-5-yl)-acrylic acid methyl ester | 1 mL, 50 mg | COC(C=CC1=CC2=C(NC=N2)C=C1)=O | C11H10N2O2
reactant | lithium tri-sec-butylborohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(1H-benzoimidazol-5-yl)-prop-2-en-1-ol | 44 mg | N1C=NC2=C1C=CC(=C2)C=CCO | C10H10N2O
